US06706709B2
5-(2,3-Dihydro-indole-1-sulfonyl)-3-[5-(2-pyrrolidin-1-yl-ethoxy)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one
5-(2,3-Dihydro-indole-1-sulfonyl)-1,3-dihydro-indol-2-one was condensed with 5-(2-pyrrolidin-1-yl-ethoxy)-1H-indole-2-carbaldehyde to give the title compound.

reactant | 5-(2,3-Dihydro-indole-1-sulfonyl)-1,3-dihydro-indol-2-one | N1(CCC2=CC=CC=C12)S(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C16H14N2O3S
reactant | 5-(2-pyrrolidin-1-yl-ethoxy)-1H-indole-2-carbaldehyde | N1(CCCC1)CCOC=1C=C2C=C(NC2=CC1)C=O | C15H18N2O2
product | 5-(2,3-Dihydro-indole-1-sulfonyl)-3-[5-(2-pyrrolidin-1-yl-ethoxy)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one | N1(CCC2=CC=CC=C12)S(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=CC=1NC2=CC=C(C=C2C1)OCCN1CCCC1 | C31H30N4O4S
